US07923561B2
rac-4-Fluoro-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide
The title compound, MS: m/e=464.1 (M+H+), was prepared in accordance with the general method of example 13 from 5-nitro-2-chloroquinoline, 4-fluorobenzenesulfonyl chloride and rac-7-methoxy-indane-1-ylamine.

reactant | 5-nitro-2-chloroquinoline | [N+](=O)([O-])C1=C2C=CC(=NC2=CC=C1)Cl | C9H5ClN2O2
reactant | 4-fluorobenzenesulfonyl chloride | FC1=CC=C(C=C1)S(=O)(=O)Cl | C6H4ClFO2S
reactant | rac-7-methoxy-indane-1-ylamine | COC=1C=CC=C2CCC(C12)N | C10H13NO
product | rac-4-Fluoro-N-[2-(7-methoxy-indan-1-ylamino)-quinolin-5-yl]-benzenesulfonamide | FC1=CC=C(C=C1)S(=O)(=O)NC1=C2C=CC(=NC2=CC=C1)NC1CCC2=CC=CC(=C12)OC | C25H22FN3O3S
